US08071625B2
To a solution of Boc-Gly-OH (54 mg, 0.31 mmol, 1.2 equiv.) in DMF (1 mL) were added HATU (120 mg, 0.31 mmol, 1.2 equiv.), followed by addition of (4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-ethylphenylcarbamate hydrochloride (120 mg, 0.26 mmol, 1 equiv.) and DIEA (89 μL, 0.51 mmol, 2 equiv.) at rt The reaction mixture was stirred for 3 h and purified on RP-HPLC using a mixture of acetonitrile and H2O to give (1-(2-(tert-butoxycarbonyl)aminoacetyl)-4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-ethylphenylcarbamate (127 mg, 84%). LRMS (M-Boc+H+) m/z 487.1.

reactant | Boc-Gly-OH | 0.31 mmol, 54 mg, 1.2 equiv. | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | HATU | 0.31 mmol, 120 mg, 1.2 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-ethylphenylcarbamate hydrochloride | 0.26 mmol, 120 mg, 1 equiv. | Cl.C(C)C1=CC=C(C=C1)NC(OCC1(CCNCC1)C(NCC1=C(C=CC=C1)Cl)=O)=O
reactant | DIEA | 0.51 mmol, 89 μL, 2 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (1-(2-(tert-butoxycarbonyl)aminoacetyl)-4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-ethylphenylcarbamate | 127 mg, 84% | C(C)C1=CC=C(C=C1)NC(OCC1(CCN(CC1)C(CNC(=O)OC(C)(C)C)=O)C(NCC1=C(C=CC=C1)Cl)=O)=O | C30H39ClN4O6
